US06821967B2
9-[4-(cis-2,6-dimethyl-4-quinazoline-2-yl-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide
Prepared analogously to Example 1 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide and 2-(cis-3,5-dimethyl-piperazin-1-yl)-quinazoline.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCBr)C=C1 | C25H23BrFNO
reactant | 2-(cis-3,5-dimethyl-piperazin-1-yl)-quinazoline | C[C@@H]1CN(C[C@@H](N1)C)C1=NC2=CC=CC=C2C=N1 | C14H18N4
product | 9-[4-(cis-2,6-dimethyl-4-quinazoline-2-yl-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCN2[C@H](CN(C[C@H]2C)C2=NC3=CC=CC=C3C=N2)C)C=C1 | C39H40FN5O
